US07402672B2
3-(3-Fluorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-2
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.20 g, 74.4 mmol) in DMF (100 mL) with bis-(3-fluorophenyl)disulfide (1.90 g, 1.0 equiv) as described in General Synthetic Procedure IVb to provide Ia-2 as an ivory colored solid (1.73 g, 80.8%), mp 235-237° C., tic Rf=0.49. 1H NMR (DMSO-d6) δ 12.52 (bs, 1H), 8.45 (dd, 1H, J=1.2, 4.5 Hz), 8.10 (bs, 1H), 7.90 (dd, 1H, J=1.2, 8.2 Hz), 7.83 (bs, 1H), 7.27 (overlapping dd, 1H, J=4.5, 8.2 Hz and dd, J=7.8, 14.0 Hz, 1H), 6.97-6.82 (m, 3H); MS Obs 288 (M +1); LC/MS: a=100%. Analysis: Calcd. For C14H10FN3SO: C, 58.53; H, 3.51; N, 14.62. Found: C, 57.95; H, 3.54; N, 14.25.

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(3-fluorophenyl)disulfide | 1.90 g, 1.0 equiv | FC=1C=C(C=CC1)SSC1=CC(=CC=C1)F | C12H8F2S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-(3-Fluorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 1.73 g, 80.8% | FC=1C=C(C=CC1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H10FN3OS
